US08314100B2
1-[(6,7-Dichloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 177)
Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-di methoxyphenyl)piperazine were reacted by the same way with the example 176 to obtain the titled compound (yield, 68%). 1H NMR (300 MHz, CDCl3) δ 3.28-3.30 (m, 4H), 3.74-3.78 (m, 4H), 3.79 (s, 6H), 4.15 (s, 3H), 6.07 (s, 1H), 6.11 (s, 2H), 7.33 (br s, 1H), 7.85 (s, 1H), 7.92 (s, 1H).

reactant | Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)NC(OCC)=O | C12H11Cl2N3O3
reactant | 1-(3,5-di methoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(6,7-Dichloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 68% | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H23Cl2N5O4
